US04160837
40.0 g (0.25 mol) of N-benzyl-3-pyrroline are dissolved in 400 ml of benzene. 53.0 g (0.25 mol) of 2,2,2-trichloroethyl chloroformate are introduced into this solution in the course of 30 minutes, at 0° and under a nitrogen atmosphere. The reaction mixture is stirred for a further 1 hour at 0°, then washed at room temperature twice with, in each case, 100 ml of a mixture of water and 2 N hydrochloric acid (3:1) and then twice with water, dried over sodium sulphate and evaporated under a water pump vacuum. The oily residue is distilled under a high vacuum and, after 24 g of benzyl chloride has been separated off, N-(β,β,β-trichloroethoxycarbonyl)-3-pyrroline with a boiling point of 84°-85° C./0.12 mm Hg is obtained.

reactant | N-benzyl-3-pyrroline | 0.25 mol, 40.0 g | C(C1=CC=CC=C1)N1CC=CC1 | C11H13N
reactant | 2,2,2-trichloroethyl chloroformate | 0.25 mol, 53.0 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | N-(β,β,β-trichloroethoxycarbonyl)-3-pyrroline | ClC(COC(=O)N1CC=CC1)(Cl)Cl | C7H8Cl3NO2
